US05760054
1,1-Dioxido-2-(4-(4-(5-tert-butyl-2-oxo-3-benzoxazolinyl)-piperidin-1-yl)-butyl)-1,2-benzisothiazol-3(2H)-one
From the hydrochloride salt of 4-(5-tert-butyl-2-oxo-3-benzoxazolinyl)-piperidine and 2-(4-bromobutyl)-1,1-dioxido-1,2-benzothiazol-3(2H)-one using the procedure described for Example 15, Step 5 there was obtained a white solid: 1H NMR (300 MHz, CDCl3) 8.07 (dd, J=6.6, 2.25 Hz, 1H), 7.88 (m, 3H), 7.19 (s, 1H), 7.11 (s, 2H), 4.17 (tt, J=12.21, 3.66 Hz, 1H), 3.85 (t, J=7.14 Hz, 2H), 3.09 (d, J=10.85 Hz, 2H), 2.46 (t, J=7.38 Hz, 2H), 2.36 (dt, J=12.15, 3.5 Hz, 2H), 2.13 (dt, J=10.89, 1.27 Hz, 2H), 1.91 (m, 4H), 1.66 (m, 2H), 1.342 (s, 9H).

reactant | 4-(5-tert-butyl-2-oxo-3-benzoxazolinyl)-piperidine | C(C)(C)(C)C=1C=CC2=C(N(C(O2)=O)C2CCNCC2)C1 | C16H22N2O2
reactant | 2-(4-bromobutyl)-1,1-dioxido-1,2-benzothiazol-3(2H)-one | BrCCCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O | C11H12BrNO3S
product | 1,1-Dioxido-2-(4-(4-(5-tert-butyl-2-oxo-3-benzoxazolinyl)-piperidin-1-yl)-butyl)-1,2-benzisothiazol-3(2H)-one | O=S1(N(C(C2=C1C=CC=C2)=O)CCCCN2CCC(CC2)N2C(OC1=C2C=C(C=C1)C(C)(C)C)=O)=O | C27H33N3O5S
